US07718652B2
In an analogous manner to Example 1, step 8, 3-(3-chloropropyl)-1-(3-methylphenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (21 mg) was reacted with methylamine and then treated with HCl to provide N-methyl-3-[1-(3-methylphenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzo thiadiazin-3-yl]propan-1-amine hydrochloride (18 mg):

reactant | 3-(3-chloropropyl)-1-(3-methylphenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 21 mg | ClCCCN1S(N(C2=C(C1)C=CC=C2)C2=CC(=CC=C2)C)(=O)=O | C17H19ClN2O2S
reactant | methylamine | CN | CH5N
reactant | HCl | Cl | ClH
product | N-methyl-3-[1-(3-methylphenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzo thiadiazin-3-yl]propan-1-amine hydrochloride | 18 mg | Cl.CNCCCN1S(N(C2=C(C1)C=CC=C2)C2=CC(=CC=C2)C)(=O)=O | InChI=1S/C18H23N3O2S.ClH/c1-15-7-5-9-17(13-15)21-18-10-4-3-8-16(18)14-20(24(21,22)23)12-6-11-19-2;/h3-5,7-10,13,19H,6,11-12,14H2,1-2H3;1H
